US04057647
20.5 g. of 4-amino-2',4'-difluorobiphenyl are dissolved in a mixture of 25 ml. of 35% hydrochloric acid, 50 ml. of acetic acid and 120 ml. of water. The solution is cooled to 0° and 6.0 g. of NaNO2 are added in portions. Subsequently, a solution of 1.5 g. of Cu2Cl2, 0.9 g. of LiCl and 100 g. of crotonic acid ethyl ester in 900 ml. of acetone is added dropwise at -10° to the stirred mixture under a N2 atmosphere. The mixture is stirred for 4 hours more at 0°-5° and for 14 hours at 20° and extracted with benzene. The extract is washed and evaporated to give 20 g. of crude 2-chloro-3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid ethyl ester. This is dissolved in 250 ml. of acetic acid to which 50 g. of zinc dust are added. The mixture is stirred for 3 hours at 20° and filtered. After the customary work up, 3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid ethyl ester, m.p. 54°-56°, is obtained from the filtrate.

reactant | 4-amino-2',4'-difluorobiphenyl | NC1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C12H9F2N
reactant | hydrochloric acid | Cl | ClH
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | LiCl | [Li+].[Cl-]
reactant | crotonic acid ethyl ester | C(C)OC(\C=C\C)=O | C6H10O2
reactant | 2-chloro-3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid ethyl ester | C(C)OC(C(=C(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)Cl)=O | C18H15ClF2O2
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid ethyl ester | C(C)OC(C=C(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C18H16F2O2
